US06133266
2-[4-Benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxyacetic acid (1.73 g), 1.18 g of (S)-2-amino-7-hydroxytetralin hydrobromide and 1.95 g of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate were dissolved in 11 ml of N,N-dimethylformamide, 1.23 ml of triethylamine was added to the solution with stirring at room temperature and the mixture was subjected to 3 hours of reaction. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The extract was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was partially purified by silica gel medium pressure liquid column chromatography (eluent: hexane/ethyl acetate=1/1) to give 2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2yl)acetamide (diastereomer mixture). The mixture was separated by silica gel medium pressure liquid column chromatography (eluent: diethyl ether) to give 1.08 g of amorphous (-)-(2R)-2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (low polarity isomer) and 0.94 g of amorphous (-)-(2S)-2-[4benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (high polarity isomer).

reactant | 2-[4-Benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxyacetic acid | 1.73 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(=O)O)O)CCOCC1=CC=CC=C1 | C24H24O5
reactant | (S)-2-amino-7-hydroxytetralin hydrobromide | 1.18 g | Br.N[C@@H]1CC2=CC(=CC=C2CC1)O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.95 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.23 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-[4-benzyloxy-3-(2-benzyloxyethyl)phenyl]-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2yl)acetamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O)O)CCOCC1=CC=CC=C1 | C34H35NO5
